US09079914B2
30-(2) Synthesis of [(3S,4S,5R)-3-(2-Fluoro-phenyl)-4-formyl-5-methyl-tetrahydro-furan-3-yl]-carbamic acid tert-butyl ester
[(3S,4R,5R)-3-(2-Fluoro-phenyl)-4-hydroxymethyl-5-methyl-tetrahydro-furan-3-yl]-carbamic acid tert-butylester (Preparation Example 30-(1)) (1.2 g, 3.60 mmol) dissolved in DCM (26.5 g, 20 mL). 1,1,1-tris(acetyloxy)-,2-benziodoxol-3(1H)-one (3.12 g, 7.3 mmol) was added. The reaction mixture was stirred at RT. The reaction was followed by TLC Hexane/EtOAc 40%. Product Rf was 0.52. The reaction reached completion after 2 h. Work up: 20 ml of sat. aq. NaHCO3 and 20 ml of saturated sodium bisulfite was added. The mixture was then extracted with ether 3×50 ml. The combined organic phases were dried on MgSO4, concentrated and purified by flash chromatography Hexane/EtOAc (5-30%). 900 mg of the title compound was isolated (76% yield).

reactant | [(3S,4R,5R)-3-(2-Fluoro-phenyl)-4-hydroxymethyl-5-methyl-tetrahydro-furan-3-yl]-carbamic acid tert-butylester | 3.60 mmol, 1.2 g | C(C)(C)(C)OC(N[C@]1(CO[C@@H]([C@H]1CO)C)C1=C(C=CC=C1)F)=O | C17H24FNO4
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
reactant | sodium bisulfite | 20 ml | S([O-])(O)=O.[Na+]
solvent | DCM | 20 mL, 26.5 g | C(Cl)Cl | CH2Cl2
product | [(3S,4S,5R)-3-(2-Fluoro-phenyl)-4-formyl-5-methyl-tetrahydro-furan-3-yl]-carbamic acid tert-butyl ester | 900 mg, 76% yield | C(C)(C)(C)OC(N[C@]1(CO[C@@H]([C@H]1C=O)C)C1=C(C=CC=C1)F)=O | C17H22FNO4
